US08110575B2
5,6-difluoro-2,3-dihydro-1H-indole
Under an argon atmosphere 0.30 g (1.8 mmol) 5,6-difluoroxindole were dissolved in 10 mL THF and 3.0 mL of a 1 molar borane solution in THF were added dropwise. Then the reaction mixture was heated to 70° C. for 2 h and then cooled. After mixing with 3 mL MeOH another 5 mL of a 4N aqueous hydrochloric acid solution were added and the mixture was refluxed for 1 h. The organic phase was evaporated down, the aqueous phase was washed with DCM and then made alkaline with a 4N aqueous sodium hydroxide solution and extracted several times with EtOAc. The combined organic phases were dried on sodium sulphate, filtered and evaporated down.

reactant | 5,6-difluoroxindole | 1.8 mmol, 0.30 g | FC=1C=C2CC(NC2=CC1F)=O | C8H5F2NO
reactant | borane | 1 molar | B | BH3
reactant | MeOH | 3 mL | CO | CH4O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5,6-difluoro-2,3-dihydro-1H-indole | FC=1C=C2CCNC2=CC1F | C8H7F2N
